* source LAB1_BILLINGS
.EXTERNAL OUTPUT ANDoutput
.EXTERNAL OUTPUT ORoutput
.EXTERNAL OUTPUT NORoutput
.EXTERNAL OUTPUT NANDoutput
.EXTERNAL OUTPUT InvertedAndOutput
.EXTERNAL OUTPUT NandOutputTwo
.EXTERNAL OUTPUT NorOutputTwo
X_U1A         M_UN0001 M_UN0002 ANDOUTPUT $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         M_UN0003 M_UN0004 OROUTPUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         M_UN0005 M_UN0006 NOROUTPUT $G_DPWR $G_DGND 7402 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         N01515 M_UN0007 NANDOUTPUT $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         N02054 INVERTEDANDOUTPUT $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         N01964 N01976 N02054 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         N02702 N02706 NANDOUTPUTTWO $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_y1         STIM(1,0) $G_DPWR $G_DGND N03848 IO_STM STIMULUS=y
U_x1         STIM(1,0) $G_DPWR $G_DGND N03846 IO_STM STIMULUS=x
X_U10A         N03846 N03848 NOROUTPUTTWO $G_DPWR $G_DGND 7428 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
