* source LAB05_BILLINGS
.EXTERNAL INPUT Reset
.EXTERNAL INPUT D
.EXTERNAL OUTPUT Q
.EXTERNAL OUTPUT Qnot
.EXTERNAL INPUT Clk
X_U1A         N00661 N00411 N00381 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00411 QNOT Q $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00381 N00560 N00545 N00411 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00411 N00560 N00661 N00734 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         Q N00734 N00545 QNOT $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00734 N00766 N00545 N00661 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
