* source LAB2_BILLINGS
.EXTERNAL OUTPUT DeMorgan_A_Left
.EXTERNAL OUTPUT DeMorgan_A_Right
.EXTERNAL OUTPUT DeMorgan_B_Left
.EXTERNAL OUTPUT DeMorgan_B_Right
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N00752 IO_STM STIMULUS=x
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N00759 IO_STM STIMULUS=y
U_DSTM3         STIM(1,0) $G_DPWR $G_DGND N00771 IO_STM STIMULUS=z
X_U5A         N00752 N00246 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5B         N00759 N00253 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5C         N00771 N00260 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5D         N01748 DEMORGAN_A_LEFT $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_z         STIM(1,0) $G_DPWR $G_DGND N02261 IO_STM STIMULUS=z
U_x         STIM(1,0) $G_DPWR $G_DGND N02217 IO_STM STIMULUS=x
U_y         STIM(1,0) $G_DPWR $G_DGND N02239 IO_STM STIMULUS=y
X_U5E         N02217 N02563 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5F         N02239 N02570 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         N02261 N02577 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         N03156 DEMORGAN_B_RIGHT $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12B         N00267 N00260 DEMORGAN_A_RIGHT $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N00246 N00253 N00267 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11C         N00752 N00759 N01758 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N01758 N00771 N01748 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U15B         N03149 N02261 N03156 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U16B         N02217 N02239 N03149 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14C         N02563 N02570 N02584 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13C         N02584 N02577 DEMORGAN_B_LEFT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
