* source LAB2_BILLINGS
.EXTERNAL OUTPUT Distributive_Right
.EXTERNAL OUTPUT Distributive_Left
U_y         STIM(1,0) $G_DPWR $G_DGND N03061 IO_STM STIMULUS=y
U_z         STIM(1,0) $G_DPWR $G_DGND N03153 IO_STM STIMULUS=z
U_x         STIM(1,0) $G_DPWR $G_DGND N03325 IO_STM STIMULUS=x
X_U1A         N03325 N03061 N03887 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N03325 N03153 N03894 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N03325 N03108 DISTRIBUTIVE_LEFT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N03061 N03153 N03108 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N03887 N03894 DISTRIBUTIVE_RIGHT $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
