* source LAB05_BILLINGS
.EXTERNAL OUTPUT Q0
.EXTERNAL OUTPUT Q1
.EXTERNAL OUTPUT Q2
.EXTERNAL OUTPUT Q0NOT
.EXTERNAL OUTPUT Q2NOT
.EXTERNAL OUTPUT Q1NOT
U_T         STIM(1,0) $G_DPWR $G_DGND N00199 IO_STM STIMULUS=D
X_U2_U1A         Q0 Q0NOT N00199 N00199 Q1 Q1NOT $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3_U1A         Q1 Q0NOT N00199 N00199 Q2 Q2NOT $G_DPWR $G_DGND 74107 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_Clock         STIM(1,0) $G_DPWR $G_DGND N00245 IO_STM STIMULUS=Clock
U_Reset         STIM(1,0) $G_DPWR $G_DGND Q0NOT IO_STM STIMULUS=Clear_n
X_U1_U1A         N00245 Q0NOT N00199 N00199 Q0 Q0NOT $G_DPWR $G_DGND 74107
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
