* source LAB03_BILLINGS
.EXTERNAL OUTPUT PORTLEFT-L
U_z         STIM(1,0) $G_DPWR $G_DGND N09034 IO_STM STIMULUS=z
X_U5A         N09076 N09156 N09182 N09034 N17579 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         N09076 N14485 N09182 N09356 N17593 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_y         STIM(1,0) $G_DPWR $G_DGND N14287 IO_STM STIMULUS=y
U_w         STIM(1,0) $G_DPWR $G_DGND N08960 IO_STM STIMULUS=w
X_U3D         N08960 N08960 N09076 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_x         STIM(1,0) $G_DPWR $G_DGND N14485 IO_STM STIMULUS=x
X_U8A         N09076 N09156 N14287 N09356 N17586 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U24A         N08960 N09156 N09182 N09356 N17600 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U24B         N09034 N14287 N14485 N09076 N17607 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U25D         N14485 N14485 N09156 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U26D         N14287 N14287 N09182 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U27D         N09034 N09034 N09356 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U28B         N09034 N14287 N09156 N08960 N17614 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U29B         N09034 N09182 N14485 N08960 N17621 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U30B         N09356 N14287 N14485 N08960 N17633 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U31A         N17579 N17586 N17593 N17600 N17923 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U31B         N17607 N17614 N17621 N17633 N17937 $G_DPWR $G_DGND 7420 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U32D         N17923 N17923 N18004 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U33D         N17937 N17937 N18009 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U34D         N18009 N18004 PORTLEFT-L $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
