* source LAB04_BILLINGS_ADDER
.EXTERNAL OUTPUT SUM_X
.EXTERNAL OUTPUT SUM_Y
.EXTERNAL OUTPUT CARRY_OUT
X_U1_U1_U2A         N00750 U1_N00126 U1_N00151 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U1_U1A         N00750 U1_N00126 SUM_X $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U2_U2A         N00372 N00384 U1_N00158 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U2_U1A         N00372 N00384 U1_N00126 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U3A         U1_N00151 U1_N00158 N00183 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2_U1_U2A         N00183 U2_N00126 U2_N00151 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2_U1_U1A         N00183 U2_N00126 SUM_Y $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2_U2_U2A         N00391 N00403 U2_N00158 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2_U2_U1A         N00391 N00403 U2_N00126 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2_U3A         U2_N00151 U2_N00158 CARRY_OUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_X0         STIM(1,0) $G_DPWR $G_DGND N00372 IO_STM STIMULUS=X0
U_Y0         STIM(1,0) $G_DPWR $G_DGND N00384 IO_STM STIMULUS=Y0
U_X1         STIM(1,0) $G_DPWR $G_DGND N00391 IO_STM STIMULUS=X1
U_Y1         STIM(1,0) $G_DPWR $G_DGND N00403 IO_STM STIMULUS=Y1
U_Carry_in         STIM(1,0) $G_DPWR $G_DGND N00750 IO_STM STIMULUS=Carry_in
