* source LAB04_BILLINGS_ADDER
.EXTERNAL OUTPUT SUM
.EXTERNAL OUTPUT CARRY_OUT
X_U1_U2A         N00342 N00126 N00151 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1_U1A         N00342 N00126 SUM $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2_U2A         N00346 N00358 N00158 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2_U1A         N00346 N00358 N00126 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00151 N00158 CARRY_OUT $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_Carry_in         STIM(1,0) $G_DPWR $G_DGND N00342 IO_STM STIMULUS=Carry_in
U_X         STIM(1,0) $G_DPWR $G_DGND N00346 IO_STM STIMULUS=X
U_Y         STIM(1,0) $G_DPWR $G_DGND N00358 IO_STM STIMULUS=Y
